US06544985B2
{2-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-5-isobutylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J41) (347 mg, 1.0 mmol) and 3-(3-imidazol-1-yl-phenyl)-3-oxo-propionic acid tert-butyl ester (Example K26) (286 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (430 mg, 77%).

reactant | [2-amino-5-(isobutyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 347 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)C(F)(F)F)N)=O | C16H24F3N3O2
reactant | 3-(3-imidazol-1-yl-phenyl)-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 286 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O | C16H18N2O3
product | {2-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-5-isobutylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C28H32F3N5O4
